US08835648B2
2-(5-Bromo-2-fluoro-phenyl)-5-chloro-benzoimidazole-1-carboxylic acid tert-butyl ester
Method 7—Step c To a stirred mixture of 2-(5-Bromo-2-fluoro-phenyl)-5-chloro-1H-benzoimidazole (1.41 g, 4.33 mmol) in dcm (28 mL), Boc2O (1.23 g, 5.63 mmol) and DMAP (0.05 g, 0.43 mmol) were added and the reaction mixture was left stirring at room temperature overnight. The reaction mixture was washed with saturated NaH4Cl solution (2×5 mL), and the crude was then purified by flash chromatography (eluent gradient: cyclohexane:EtOAc from 8:1 to 5:1), to obtain 1.31 g of the title compound (71%) as mixture of two regioisomers.

reactant | 2-(5-Bromo-2-fluoro-phenyl)-5-chloro-1H-benzoimidazole | 4.33 mmol, 1.41 g | BrC=1C=CC(=C(C1)C1=NC2=C(N1)C=CC(=C2)Cl)F | C13H7BrClFN2
reactant | Boc2O | 5.63 mmol, 1.23 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.43 mmol, 0.05 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(5-Bromo-2-fluoro-phenyl)-5-chloro-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.31 g, 71% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Cl)C2=C(C=CC(=C2)Br)F | C18H15BrClFN2O2
